US08283353B2
4′-[(4-{trans-4-[(1-{[tert-butyl(dimethyl)silyl]oxy}cyclopropyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
To a solution of 4′-({5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.93 g) and diisopropylethylamine (0.77 mL) in methylene chloride (10 mL) was added dropwise tert-butyldimethylsilyl trifluoromethanesulfonate (1.02 mL) at −78° C., and the mixture was stirred for 3 hr while warming to 0° C. To the reaction mixture were added ethyl acetate and saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was crudely purified by silica gel column chromatography, and dissolved in methylene chloride (5 mL), and the mixture was added dropwise to a solution of diethylzinc (1 M hexane solution, 7.5 mL) and chloroiodomethane (0.55 mL) in methylene chloride (10 mL) at 0° C., and the mixture was stirred for 2 hr. To the reaction mixture were added ethyl acetate and then saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.67 g, 68%).

reactant | 4′-({5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.93 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(C)=O | C32H34N4O3
reactant | diisopropylethylamine | 0.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 1.02 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-[(4-{trans-4-[(1-{[tert-butyl(dimethyl)silyl]oxy}cyclopropyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.67 g, 68% | [Si](C)(C)(C(C)(C)C)OC1(CC1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C39H50N4O3Si
